US06949571B2
3-(1-Adamantylamino)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
27 mg of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one and 130 mg of 1-adamantylamine were dissolved in 10 ml of dimethylformamide. To the mixture was added 20 mg of sodium hydride, followed by stirring at 130° C. in nitrogen atmosphere. After the reaction solution was cooled to room temperature, a saturated aqueous solution of ammonium chloride and water were added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 3 mg of the title compound.

reactant | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 27 mg | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
reactant | 1-adamantylamine | 130 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(1-Adamantylamino)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 3 mg | C12(CC3CC(CC(C1)C3)C2)NC=2C(N(C=C(C2)C2=NC=CC=C2)C2=CC=CC=C2)=O | C26H27N3O
